US09302989B2
N-[6-(benzoylamino)hexyl]-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 1C, substituting N-(6-aminohexyl)isoindoline-2-carboxamide for 3-phenylpropan-1-amine and benzoic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.42 (t, J=5.35 Hz, 1H) 7.76-7.90 (m, 2H) 7.36-7.58 (m, 3H) 7.20-7.36 (m, 4H) 6.28 (t, J=5.55 Hz, 1H) 4.57 (s, 4H) 3.21-3.30 (m, 2H) 3.07 (q, J=6.74 Hz, 2H) 1.24-1.66 (m, 8H); (ESI(+)) m/e 366 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-[6-(benzoylamino)hexyl]-1,3-dihydro-2H-isoindole-2-carboxamide | C(C1=CC=CC=C1)(=O)NCCCCCCNC(=O)N1CC2=CC=CC=C2C1 | C22H27N3O2
